US07655680B2
Zinc (II) cyanide (purity of 60%) (140 mg, 0.7 mmol) and tetrakis(triphenylphosphine)palladium (19 mg, 0.016 mmol) were added to a solution (1 ml) of 1-(2-bromophenyl)-3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]propane-1-one (150 mg, 0.33 mmol) in DMF, and the mixture was stirred with heating in an argon atmosphere at 100° C. for 2 hours. After cooling to room temperature, water and ethyl acetate was added to the reaction mixture, the resulting mixture was filtered through Celite, and the filtrate was separated into layers. The organic layer was washed with a saturated salt solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=3/4). The solvent was distilled off under reduced pressure, and the residue was recrystallized from ethanol, to thereby obtain 70 mg (yield: 53%) of 2-{3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]propionyl}benzonitrile as colorless needles.

reactant | 1-(2-bromophenyl)-3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]propane-1-one | 0.33 mmol, 1 ml, 150 mg | BrC1=C(C=CC=C1)C(CCC=1N=C(SC1)C1=CC(=C(C=C1)OCC)OCC)=O | C22H22BrNO3S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | Zinc (II) cyanide | 0.7 mmol, 140 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.016 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]propionyl}benzonitrile | 70 mg, yield: 53% | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)CCC(=O)C1=C(C#N)C=CC=C1 | C23H22N2O3S
